US08877772B2
Preparation of 4-{5-[4-(piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide, hydrochloride salt
A solution of 4-{4-[3-(4-carbamoyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoyl}-piperazine-1-carboxylic acid tert-butyl ester (100 mg, 0.19 mmol) in MeOH (3 ml) was treated with 4 N HCl in dioxane (2.5 ml) and stirred at room temperature for 1 hr. The mixture was evaporated, taken up in MeOH and evaporated again. This was repeated twice to give 102 mg (116%) of the title compound. MS ESI (m/z): MS ESI (m/z): 426.4 (M+1)+, calc. 425.

reactant | 4-{4-[3-(4-carbamoyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.19 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)C(N)=O)=O | C30H31N5O4
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 4-{5-[4-(piperazine-1-carbonyl)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-benzamide, hydrochloride salt | 102 mg, 116% | Cl.N1(CCNCC1)C(=O)C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C(=O)N)C=C2 | InChI=1S/C25H23N5O2.ClH/c26-23(31)18-5-3-17(4-6-18)22-15-29-24-21(22)13-20(14-28-24)16-1-7-19(8-2-16)25(32)30-11-9-27-10-12-30;/h1-8,13-15,27H,9-12H2,(H2,26,31)(H,28,29);1H
